US05874061
e) 1,4,7,10,13,16-Hexakis[N-benzyloxycarbonyl-β-alanyl]-1,4,7,10,13,16-hexaazacyclooctadecane
516 mg (2 mmol) of 1,4,7,10,13,16-hexaazacyclooctadecane (hexacyclene; Fluka) is azeotropically dehydrated with toluene. A solution of 3.35 g (15 mmol) of benzyloxycarbonyl-β-alanine (Sigma) in tetrahydrofuran (THF) as well as 3.71 g (15 mmol) of 2-ethoxy-l-ethoxycarbonyl-1,2-dihydroquinoline (EEDQ; Fluka) are added to the cooled solution of hexacyclene in toluene at room temperature and stirred overnight. After the reaction is completed, the product is precipitated by adding hexane, and the precipitate is chromatographed on silica gel with dichloromethane/hexane/isopropanol (20:10:1).

reactant | 1,4,7,10,13,16-hexaazacyclooctadecane | 2 mmol, 516 mg | N1CCNCCNCCNCCNCCNCC1 | C12H30N6
reactant | benzyloxycarbonyl-β-alanine | 15 mmol, 3.35 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)O | C11H13NO4
reactant | 2-ethoxy-l-ethoxycarbonyl-1,2-dihydroquinoline | 15 mmol, 3.71 g | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,4,7,10,13,16-Hexakis[N-benzyloxycarbonyl-β-alanyl]-1,4,7,10,13,16-hexaazacyclooctadecane | C(C1=CC=CC=C1)OC(=O)NCCC(=O)N1CCN(CCN(CCN(CCN(CCN(CC1)C(CCNC(=O)OCC1=CC=CC=C1)=O)C(CCNC(=O)OCC1=CC=CC=C1)=O)C(CCNC(=O)OCC1=CC=CC=C1)=O)C(CCNC(=O)OCC1=CC=CC=C1)=O)C(CCNC(=O)OCC1=CC=CC=C1)=O | C78H96N12O18
